US09169267B2
4-(2-amino-2-oxoethyl)tetrahydro[1,3]oxazolo[2,3-b][1,3]oxazol-4-ium iodide
A solution of 1.850 g (10 mmol) iodoacetamide and 1.152 g (10 mmol) tetrahydro[1,3]oxazolo[2,3-b][1,3]oxazole in 20 ml of methanol was refluxed for 1 hour. The solvent was then removed under reduced pressure and the residue was allowed to crystallize overnight. The precipitate was filtered off, washed twice with dichloromethane and dried. 2.041 g (68.0%) of white crystalline product was obtained.

reactant | iodoacetamide | 10 mmol, 1.850 g | ICC(=O)N | C2H4INO
reactant | tetrahydro[1,3]oxazolo[2,3-b][1,3]oxazole | 10 mmol, 1.152 g | O1CCN2C1OCC2 | C5H9NO2
solvent | methanol | 20 ml | CO | CH4O
product | 4-(2-amino-2-oxoethyl)tetrahydro[1,3]oxazolo[2,3-b][1,3]oxazol-4-ium iodide | 2.041 g, 68.0% | [I-].NC(C[N+]12C(OCC1)OCC2)=O | InChI=1S/C7H12N2O3.HI/c8-6(10)5-9-1-3-11-7(9)12-4-2-9;/h7H,1-5H2,(H-,8,10);1H
